US08383827B2
To a solution of methyl 1-(5-bromopyridin-3-yl)cyclopropanecarboxylate (1 g, 3.9 mmol) in THF (40 mL) was added 90% KOTMS (0.557 g, 3.9 mmol), and the mixture was stirred at room temperature overnight. The mixture was filtered and washed with THF to give potassium 1-(5-bromopyridin-3-yl)cyclopropanecarboxylate. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.63-0.69 (m, 2H), 1.09-1.15 (m, 2H), 7.79-7.80 (m, 1H), 8.34-8.37 (m, 2H).

reactant | methyl 1-(5-bromopyridin-3-yl)cyclopropanecarboxylate | 3.9 mmol, 1 g | BrC=1C=C(C=NC1)C1(CC1)C(=O)OC | C10H10BrNO2
reactant | KOTMS | 3.9 mmol, 0.557 g | O([K])[Si](C)(C)C
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | potassium 1-(5-bromopyridin-3-yl)cyclopropanecarboxylate | BrC=1C=C(C=NC1)C1(CC1)C(=O)[O-].[K+] | InChI=1S/C9H8BrNO2.K/c10-7-3-6(4-11-5-7)9(1-2-9)8(12)13;/h3-5H,1-2H2,(H,12,13);/q;+1/p-1
